US06509328B1
3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionic Acid tert.-butyl Ester
Prepared from methyl 3-(1H-imidazol-1-yl)benzoate [prepared from 3-(1H-imidazol-1-yl)benzoic acid (J. Med. Chem. 1987, 30, 1342; CAS-No. [108035-47-8] by refluxing in conc. H2SO4/MeOH] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as an orange-brown oil.

reactant | methyl 3-(1H-imidazol-1-yl)benzoate | N1(C=NC=C1)C=1C=C(C(=O)OC)C=CC1 | C11H10N2O2
reactant | 3-(1H-imidazol-1-yl)benzoic acid | N1(C=NC=C1)C=1C=C(C(=O)O)C=CC1 | C10H8N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | H2SO4 MeOH | OS(=O)(=O)O.CO
product | 3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionic Acid tert.-butyl Ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O | C16H18N2O3
